US07749999B2
A solution of tolyl hydrazine hydrochloride (8.0 g, 50 mmol) and 4,4-dimethyl-3-oxo-pentanenitrile (6.3 g, 50 mmol) in toluene (30 mL) was heated to reflux overnight. Removal of the volatiles in vacuo provided a residue, which was purified by silica gel chromatography using 30% ethyl acetate in hexanes as the eluent. Concentration in vacuo provided 3-amino-5-tert-butyl-2-tolyl-2H-pyrazole as a brown solid (10.5 g, 92%). LC-MS analysis of the compound indicates the desired product is present with a purity >99%. Calculated mass=229. Observed mass=230.

reactant | tolyl hydrazine hydrochloride | 50 mmol, 8.0 g | Cl.C1(=C(C=CC=C1)NN)C
reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 50 mmol, 6.3 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-amino-5-tert-butyl-2-tolyl-2H-pyrazole | 10.5 g, 92% | NC=1C(=C(C=C(C1)C(C)(C)C)C)N1N=CC=C1 | C14H19N3
